### PR TITLE
[Merged by Bors] - perf(Basic/Rel): use `grind` instead of `aesop`

### PR DESCRIPTION
**Pull request by FrankieNC**
Most  of the elaboration time of `Mathlib/Basic/Rel.lean` goes into its 55 `aesop` calls.
Speed them up by using `grind` instead (or, in one case, `simp`).
Add a few more grind annotations to make this ergonomic.
This reduces the elaboration time of the file by more than 40%.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by FrankieNC** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/00f2111f9a7c46e71f1e4344f511226a689106f2?reference=54df8a3f96ac6f0b356728db732feb977d017aab) for 00f2111f9a7c46e71f1e4344f511226a689106f2 against 54df8a3f96ac6f0b356728db732feb977d017aab are in. There are significant results. @FrankieNC @MrBrain295

- ✅ `build//instructions`: **-442.0G** (**-0.31%**)

**Large changes (1✅)**

- *1 hidden*

**Medium changes (1✅)**

- ✅ `build/module/Mathlib.Data.Rel//instructions`: **-24.6G** (**-48.33%**)

File: Mathlib/Data/Rel.lean [hunk 1]
```diff
@@ -117,19 +117,24 @@ def cod : Set β := {b | ∃ a, a ~[R] b}
...
-  ⟨fun h ↦ Set.eq_empty_iff_forall_notMem.mpr <| by simp_all [Set.eq_empty_iff_forall_notMem],
-   (· ▸ dom_empty)⟩
+@[simp] lemma cod_empty : (∅ : SetRel α β).cod = ∅ :=
+  Set.eq_empty_of_forall_notMem fun _ ⟨_, h⟩ ↦ h
 
-@[simp] lemma cod_eq_empty_iff : R.cod = ∅ ↔ R = (∅ : SetRel α β) :=
-  ⟨fun h ↦ Set.eq_empty_iff_forall_notMem.mpr <| by simp_all [Set.eq_empty_iff_forall_notMem],
-   (· ▸ cod_empty)⟩
+@[simp] lemma dom_eq_empty_iff : R.dom = ∅ ↔ R = (∅ : SetRel α β) := by
+  simp only [Set.eq_empty_iff_forall_notMem, mem_dom, not_exists, Prod.forall]
```
Comment (chenson2018) [inline Mathlib/Data/Rel.lean]: Normally we wouldn't squeeze this terminal `simp`, though it is more performant. I'll defer to a maintainer on where that line is.

File: Mathlib/Data/Rel.lean [hunk 2]
```diff
@@ -154,28 +159,51 @@ def comp (R : SetRel α β) (S : SetRel β γ) : SetRel α γ := {(a, c) | ∃ b
 lemma prodMk_mem_comp (hab : a ~[R] b) (hbc : b ~[S] c) : a ~[R ○ S] c := ⟨b, hab, hbc⟩
 
 lemma comp_assoc (R : SetRel α β) (S : SetRel β γ) (t : SetRel γ δ) :
-    (R ○ S) ○ t = R ○ (S ○ t) := by aesop
+    (R ○ S) ○ t = R ○ (S ○ t) := by
+  ext ⟨a, d⟩
+  simp only [mem_comp]
+  tauto
```
Comment (chenson2018) [inline Mathlib/Data/Rel.lean]: Did you also try `grind` for these proofs now using `tauto`? Some like this seem to have comparable performance but are a bit shorter.

File: Mathlib/Data/Rel.lean (hunk 1 above)
Comment (FrankieNC) [reply Mathlib/Data/Rel.lean]: Thanks for spotting it! That's an artefact of me profiling the file for performance. I removed the `only` in the latest commit.

**Comment by FrankieNC** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/10519ea60442591b7851aad6c0db34dc76881a95?reference=9fb10993c11c9e7abfa291e86fb499b6e1f4da82) for 10519ea60442591b7851aad6c0db34dc76881a95 against 9fb10993c11c9e7abfa291e86fb499b6e1f4da82 are in. No significant results found. @FrankieNC

- ✅ `build//instructions`: **-19.3G** (**-0.01%**)

**Medium changes (1✅)**

- ✅ `build/module/Mathlib.Data.Rel//instructions`: **-26.4G** (**-51.90%**)

File: Mathlib/Data/Rel.lean (hunk 2 above)
Comment (FrankieNC) [reply Mathlib/Data/Rel.lean]: I did try `grind`, and it can one-shot most of these proofs, but I decided against that: swapping `aesop` for a bare `grind` feels like trading one black box for another, and the point of this PR is to make the proofs explicit. It's also a bit slower that way. Profiling gives roughly 80ms per lemma for the one-shot version and about 50ms if I keep the `simp only` and let `grind` finish, which also beats `tauto` (around 60–90ms). So keeping the unfolding visible and finishing with `grind` is the best of both worlds. I hadn't thought of that, thanks!

File: Mathlib/Data/Rel.lean [hunk 3]
```diff
@@ -154,28 +159,51 @@ def comp (R : SetRel α β) (S : SetRel β γ) : SetRel α γ := {(a, c) | ∃ b
 lemma prodMk_mem_comp (hab : a ~[R] b) (hbc : b ~[S] c) : a ~[R ○ S] c := ⟨b, hab, hbc⟩
 
 lemma comp_assoc (R : SetRel α β) (S : SetRel β γ) (t : SetRel γ δ) :
-    (R ○ S) ○ t = R ○ (S ○ t) := by aesop
+    (R ○ S) ○ t = R ○ (S ○ t) := by
+  ext ⟨a, d⟩
+  simp only [mem_comp]
+  grind
```
Comment (chenson2018) [inline Mathlib/Data/Rel.lean]: I'm not sure that this is better than what you had originally, as I'd prefer to not mix `simp` and `grind` when possible.

What I had in mind is just `grind [mem_comp]`, which would work before or after the `ext`. This is the same level of readability (it's just as opaque as the simp call) but one fewer tactic. Maybe compare the performance here and see what you think? (Edit: or maybe you already did and this is why you chose this, I was unclear)

Comment (FrankieNC) [reply Mathlib/Data/Rel.lean]: I wasn't aware that mixing `simp` with `grind` was something to avoid, thanks! I'll keep it in mind. 

I'm happy to make the change you suggested, though for reference here are the timings (medians of 3 `trace.profiler` runs per lemma): the current `ext` + `simp only` + `grind` takes ~20-30ms, while `ext; grind [mem_comp]` and plain `grind [mem_comp]` both take ~35-45ms. For context, any of these is a big improvement on the original `aesop` proofs, which ranged from ~100ms to ~350ms per lemma. The fastest option is a term-mode proof (~20ms), though it's somewhat unreadable:

```lean
lemma comp_assoc (R : SetRel α β) (S : SetRel β γ) (t : SetRel γ δ) :
    (R ○ S) ○ t = R ○ (S ○ t) :=
  Set.ext fun ⟨_, _⟩ ↦ ⟨fun ⟨c, ⟨b, hab, hbc⟩, hcd⟩ ↦ ⟨b, hab, c, hbc, hcd⟩,
    fun ⟨b, hab, c, hbc, hcd⟩ ↦ ⟨c, ⟨b, hab, hbc⟩, hcd⟩⟩

Comment (chenson2018) [reply Mathlib/Data/Rel.lean]: I prefer the `grind` solution here on the spectrum of brevity/readability/performance, but think there's some personal taste involved here and agree that any of these are an improvement. I'll leave it for a maintainer to decide.

Avoiding `simp; grind` isn't an official rule, but I'd say it's a bit of an open question what the guidance is here. (Especially with respect to the flexible linter)

**Comment by FrankieNC** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/36c8c6bd1d8d08c9a30f7ee937bcdb5dc442a2ab?reference=9fb10993c11c9e7abfa291e86fb499b6e1f4da82) for 36c8c6bd1d8d08c9a30f7ee937bcdb5dc442a2ab against 9fb10993c11c9e7abfa291e86fb499b6e1f4da82 are in. No significant results found. @FrankieNC

- ✅ `build//instructions`: **-34.2G** (**-0.02%**)

**Medium changes (1✅)**

- ✅ `build/module/Mathlib.Data.Rel//instructions`: **-25.0G** (**-49.10%**)

File: Mathlib/Data/Rel.lean [hunk 4]
```diff
@@ -252,63 +283,107 @@ lemma preimage_inter_subset : preimage R (t₁ ∩ t₂) ⊆ preimage R t₁ ∩
...
+  constructor
+  · rintro ⟨b, -, hab⟩
+    exact ⟨b, hab⟩
+  · rintro ⟨b, hab⟩
+    exact ⟨b, h ⟨a, hab⟩, hab⟩
 
 variable (R s) in
-@[simp] lemma image_inter_dom : image R (s ∩ R.dom) = image R s := by aesop
+@[simp] lemma image_inter_dom : image R (s ∩ R.dom) = image R s := by
+  ext b
```
Comment (grunweg) [inline Mathlib/Data/Rel.lean]: Just to give one example: I don't consider this proof better. Mathematically, there is little of substance going on - so using one automation tactic to solve this feels appropriate. If `aesop` is to opaque to you, we can discuss more readable alternatives - but we shouldn't just revert to manual proofs.

(In terms of performance, grind may be faster --- but `aesop?` can yield more readable output.)

**Review by grunweg — COMMENTED** [review]
Hi! Looking at this PR, the particular motivation is not clear to me. Can you elaborate on this (and also mention this in the PR description)? (In general, the PR description should also describe the *why* of a change, if there's something useful to say.)

This PR adds 80 lines of diff... making a number of proofs less readable to me. This needs good justification. While the relative speed-up is impressive, I'm not convinced the absolute numbers make it worth it.

**Comment by FrankieNC** [comment]
> Hi! Looking at this PR, the particular motivation is not clear to me. Can you elaborate on this (and also mention this in the PR description)? (In general, the PR description should also describe the _why_ of a change, if there's something useful to say.)
> 
> This PR adds 80 lines of diff... making a number of proofs less readable to me. This needs good justification. While the relative speed-up is impressive, I'm not convinced the absolute numbers make it worth it.

Thanks for the review! My main motivation was to speed up the build times of mathlib. I thought one way to do so was to replace `aesop` with explicit terms or a manual proof. I didn't know that Mathlib's preference is automation over manual proofs, I will keep it mind! So, I reworked the PR to replace (where possible) the use of `aesop` with `grind` which still speeds up the build times of the file.

**Comment by FrankieNC** [comment]
!bench

File: Mathlib/Data/Rel.lean (hunk 4 above)
Comment (FrankieNC) [reply Mathlib/Data/Rel.lean]: Thanks! I will keep it mind!

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/fcdd3d9275024fb4e138f638e2ca0396993ebcc3?reference=7ab00b28d825a38f62a5b6b639679b3194fde8a6) for fcdd3d9275024fb4e138f638e2ca0396993ebcc3 against 7ab00b28d825a38f62a5b6b639679b3194fde8a6 are in. No significant results found. @FrankieNC

- ✅ `build//instructions`: **-73.6G** (**-0.05%**)

**Medium changes (1✅)**

- ✅ `build/module/Mathlib.Data.Rel//instructions`: **-17.9G** (**-35.91%**)

**Comment by FrankieNC** [comment]
This module has been deprecated.

**Comment by SnirBroshi** [comment]
> This module has been deprecated.

It just moved as-is to `Basic/`

**Comment by FrankieNC** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/mathlib4/commits/7e3160cd6bf11a560168070b03aa6876243b3ce1?reference=1d97a98f343be7d1383a0172ac425295e414aeba) for 7e3160cd6bf11a560168070b03aa6876243b3ce1 against 1d97a98f343be7d1383a0172ac425295e414aeba are in. No significant results found. @FrankieNC

- ✅ `build//instructions`: **-33.9G** (**-0.02%**)

**Medium changes (1✅)**

- ✅ `build/module/Mathlib.Basic.Rel//instructions`: **-20.9G** (**-42.23%**)

**Small changes (1✅)**

- ✅ `build/module/Mathlib.Analysis.Normed.Lp.SmoothApprox//instructions`: **-263.7M** (**-2.64%**)

**Comment by b-mehta** [comment]
I think this is now a good PR: it adds useful `grind` annotations, speeds up the slowest file in Basic/ (and significantly so) and there are no real readability regressions. I'd like @grunweg 's opinion once more, but otherwise I am happy with this

maintainer merge

**Comment by grunweg** [comment]
@chenson2018 @b-mehta Sure, I'm happy to take a final look. Has either of you looked at the grind annotations already?

**Comment by chenson2018** [comment]
@grunweg  I have taken a look and agree with Bhavik. These all look very reasonable to me. In general, I think adding `grind =` to already `simp` tagged theorems is usually non-controversial.

**Comment by b-mehta** [comment]
I have also looked at the grind tags and agree they are good

**Comment by grunweg** [comment]
Thanks for checking the annotations for me, this way I didn't have to jump into VS Code :-) I just updated the PR description to match what the PR does. With that done, this PR looks good to me - thanks for persevering!
bors merge
